US09359375B2
To a solution of 2,4,6-trifluorobenzonitrile (208 mg, 1.32 mmol) in DMSO (2 mL), a solution of D-leucine amide hydrochloride (220 mg, 1.32 mmol) and DIEA (0.688 mL, 3.96 mmol) in DMSO (5 mL) was added. After being stirred at room temperature for 18 h, water and EtOAc were added. The organic phase was separated, washed with water, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, eluted with 20-80% EtOAc in hexane to give (R)-2-(4-cyano-3,5-difluorophenylamino)-4-methylpentanamide (92 mg).

reactant | 2,4,6-trifluorobenzonitrile | 1.32 mmol, 208 mg | FC1=C(C#N)C(=CC(=C1)F)F | C7H2F3N
reactant | D-leucine amide hydrochloride | 1.32 mmol, 220 mg | Cl.N[C@H](CC(C)C)C(=O)N
reactant | DIEA | 3.96 mmol, 0.688 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(4-cyano-3,5-difluorophenylamino)-4-methylpentanamide | 92 mg | C(#N)C1=C(C=C(C=C1F)N[C@@H](C(=O)N)CC(C)C)F | C13H15F2N3O
